US08222416B2
To a stirred suspension of magnesium powder (1.6 g, 67.5 mmol) and iodine (3 pieces) in dry tetrahydrofuran (8 mL) was added (bromomethyl)cyclobutane (1.1 mL, 7.5 mmol) dropwise at room temperature. After the reaction initiated, a solution of (bromomethyl)cyclobutane (5.5 mL, 37.5 mmol) in dry tetrahydrofuran (30 mL) was added dropwise and then heated at reflux for 30 min. The resulting Grignard reagent was added to a solution of (1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-(4-methylsulfanyl-phenyl)-methanone (1.9 g, 4.5 mmol) at 0° C. and stirred for 1 h. The reaction was quenched with water, extracted with ethyl acetate (300 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 15% ethyl acetate/hexanes) afforded 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclobutyl-1-(4-methylsulfanyl-phenyl)-ethanol (600 mg, 26.9%) as a light yellow solid; LC/MS m/e calcd for C26H25FN2O3S2 [M+H]+ 497.63, observed 496.8.

reactant | magnesium | 67.5 mmol, 1.6 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | (bromomethyl)cyclobutane | 7.5 mmol, 1.1 mL | BrCC1CCC1 | C5H9Br
reactant | (bromomethyl)cyclobutane | 37.5 mmol, 5.5 mL | BrCC1CCC1 | C5H9Br
reactant | (1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-(4-methylsulfanyl-phenyl)-methanone | 4.5 mmol, 1.9 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(=O)C2=CC=C(C=C2)SC | C21H15FN2O3S2
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclobutyl-1-(4-methylsulfanyl-phenyl)-ethanol | 600 mg, 26.9% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(CC2CCC2)(O)C2=CC=C(C=C2)SC | C26H25FN2O3S2
